Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
unknown
 
Attending: ___.
 
Chief Complaint:
"I had a feeling I needed to see something I just this sudden 
urge to drop everything...I stopped everything 4 days ago I 
wanted to see things...I believe a few people were aware of my 
circumstances I was transparent and my girlfriend broke up with 
me she said you're not yourself your eyes are glazed over".
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old ___ 
student with a history of unspecified psychosis and ETOH misuse 
disorder who presents to the ___ ED on a ___ for 
concern for psychotic decompensation in the setting of 
self-discontinuing all psychiatric medications 4 days ago.

On inpatient admission interview patient reports that 5 days ago 
(on ___ she stopped taking all psychiatric 
medicines as well as stopped drinking ETOH and smoking 
cigarettes.  When asked
why she stopped, she says she had not been feeling right and 
that she was ready for a transformation - "stopping cold ___ 
broke down my nervous system and allowed me to be in this 
dream-like state."  Since then she has been sleeping poorly, had 
minimal appetite and started hearing voices and seeing 
shadows/lights today.  She states the voices belong to people 
she knows (family, doctors, friends) and are "coming through 
different circuits" - they sound like noise and she cannot make 
out what they say to her.  She also reports that she can see new 
colors now which she finds very important.  She states that 
today she got into an argument with her girlfriend and said 
nasty things to her which made the girlfriend feel threatened.  
The pt reports that somehow a supervisor at her school found out 
and felt her to be a threat
"to myself or the community" and required her to go to the 
hospital. 

Patient denies SI and states that she is looking forward to 
finishing school and getting a job.  As part of her practicum 
for school she has been involved in a business project ___ 
___ and music to underdeveloped neighborhoods; she enjoys this 
work very much.

The pt reports a history of "manic episodes" which occur 
approximately once a month and during which she experiences 
"ego-pumping" and feeling like she has above average ability to 
do things.  She is usually able to fall asleep during these 
times but it is more difficult than usual.  Denies risky 
behaviors or racing thoughts.  Patient denies HI.  She was 
oriented to the unit and informed to contact staff with 
questions or issues.
 
Past Medical History:
Past Psychiatric History: 
Hospitalizations: ___ in ___. at age 
___ or ___ after an overdose 
Current treaters and treatment: Psychiatrist, Dr. ___ 
in
___, ___., {___}
Medication: Olanzapine, Sertraline, Lorazepam, Alprazolam, 
Fluvoxamine Maleate and Zolpidem 
Self-injury: reports that she overdosed at age ___ or ___ in a 
suicide attempt {mother reports that it was alcohol related"
Harm to others:denies
Access to weapons: denies access to guns

PAST MEDICAL HISTORY: 
* PCP in CA.
* per mother, patient had a skate board injury as a young teen 
she 'skate boarded off the roof" and has chronic hip pain 
because of this

 
Social History:
The patient was born and grew up in ___. ___, intact 
family, with ___ younger siblings a brother, ___ and a sister, ___, 
father works in ___ and mother as a "___". 
She denies hx of abuse, describes good relationship with parents 
and her siblings "I'd die for them" .
She attended ___ and is now a ___ 
semester student @ ___, studying "music 
business" and lives alone in her own apt. patient is a jazz 
___ and used to skateboard and play tennis as a 
"championship level", per mother.

SUBSTANCE ABUSE HISTORY:
Patient reported drinking a fifth to a pint of hard liquor 
daily/every other day; last drink was ___  unable 
to state if she had withdrawal seizures or DTs Illicits: reports 
that she "tried everything when I was young, Acid, Ecstasy, 
Shrooms", denies IVDA
Tob: reports that she used to smoke a pack a day and roll her 
own cigarettes, but said that she "quit ___ night " and no 
longer smokes
Caffeine: 6 cups of coffee a day
 
Family History:
* Patient's father is a recovered alcoholic and he stopped 
drinking ___ years ago
* Maternal grandfather alcoholic
 
Physical ___:
Per initial inpatient unit admission 
VS:  T: 98.1 HR: 77 BP: 138/95 resp: 16 SpO2: 100% on RA Weight:
137.8lbs
Heart: regular rate and rhythm, normal S1 and S2, no murmurs 
appreciated
Lungs: clear to auscultation bilaterally, no wheezes, rales or 
rhonchi appreciated
Abdomen: tender to palpation over lower medial abdomen,  
normoactive bowel sounds x4, non-distended, no guarding, masses 
or rebound
Extremities: warm and well perfused, no edema in bilateral lower 
extremities; 4x4cm bruise on lateral aspect of R hip
Neuro: pupils reactive to direct and near (3mm-2mm); EOMI; 
muscles of facial expression intact and symmetric bilaterally; 
shoulder-shrugs symmetric; light touch diffusely intact; 
strength ___ throughout UE and ___

___ STATUS EXAM: 
 *Appearance: appears stated age, seated in chair in interview 
room, wearing hospital gown w/ sheet draped over shoulders, 
short unkempt hair, widens eyes at times during interview when 
looking at interviewer
 *Behavior: cooperative and very engaged with interview - 
appears to want to please interviewer, friendly, suspicious at 
times - especially regarding paperwork, good eye contact
 *Speech: regular volume, rate and rhythm
 *Language: fluent in ___
 *Mood/Affect: "mellow with an assertive tune… the left hand is 
more assertive, the right is more laid back" / euthymic, 
reactive, brightens at times
 *Thought process / *associations: loose associations, 
tangential thought process
 *Thought Content: denies SI/HI, reports AH (multiple voices of 
people she knows, can not make out words, just noise), denies 
current VH
  *Judgment and Insight: impaired/impaired

Cognition: 
 *Wakefulness/alertness: awake and alert
 *Attention (digit span, MOYB): performs MOYB generally 
correctly but missed Oct and self corrected several times
 *Orientation: oriented to person, ___, month/day/year
 *Memory: ___ immediate recall, ___ after 5 minutes
 *Fund of knowledge: appears consistent with level of education
  Abstraction: apple/orange = fruits, bike/train = 
transportation
  Proverbs: (the grass is greener on the other side) = "there is 
more light to be seen"

Neurological:  
 *station and gait: within normal limits
 *tone and strength: within normal limits
 
Pertinent Results:
___ 02:20PM BLOOD WBC-8.8 RBC-4.41 Hgb-13.3 Hct-40.8 MCV-93 
MCH-30.2 MCHC-32.6 RDW-13.4 RDWSD-45.6 Plt ___
___ 02:20PM BLOOD Neuts-75.4* Lymphs-16.1* Monos-7.3 
Eos-0.3* Baso-0.6 Im ___ AbsNeut-6.60* AbsLymp-1.41 
AbsMono-0.64 AbsEos-0.03* AbsBaso-0.05
___ 02:20PM BLOOD Glucose-90 UreaN-9 Creat-0.6 Na-138 K-4.5 
Cl-102 HCO3-20* AnGap-21*
___ 02:20PM BLOOD TSH-1.7
___ 02:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
SAFETY:  The pt. was placed on 15 minute checks on admission and 
 remained here on that level of observation throughout.  She was 
unit-restricted.  There were no acute safety issues during this 
hospitalization.

LEGAL: ___
PSYCHIATRIC:
# Psychosis: 
Upon admission to the inpatient unit, ___ stated that the 
week prior to admission she had been experiencing a decrease in 
sleep and heightened sensory awareness. ___ night her 
friends noted she was acting strange, as if she were in a 
trance. At that point she decided to quit everything including 
alcohol, medications, and cigarettes. When she was brought to 
the ___ ED, she said she felt intense emotions and a 
connection with the other patients in the ED, as if she was sent 
there to help them.  On her first day of admission, ___ was 
noted to be tangential and disorganized.  She was talking very 
fast about wanting to see colors and feeling love/rage.  As an 
outpatient, ___ had been taking ___ of Zyprexa as well 
as Xanax at night to help with sleep.  She had stopped taking 
her medication 4 days prior to admission.  Her Zyprexa was 
restarted at 10mg and increased to 15mg at night.  Xanax was 
held. She denied any side effects from the medication.  She did 
report that her sleep improved, however it still took about an 
hour for her to fall asleep at night even after taking the 
Zyprexa.  She responded well to the Zyprexa and over the course 
of her admission she continued to improve significantly in 
regard to organization and psychosis.  Diagnostically, 
___ current presentation of decreased sleep, feeling of 
clairvoyance and that she had a special connection to others, is 
most consistent with an unspecified bipolar disorder and an 
acute manic vs hypomanic event. 

GENERAL MEDICAL CONDITIONS:
# No acute or chronic medical conditions 

PSYCHOSOCIAL:
#) GROUPS/MILIEU:
Ms. ___ was fairly consistent with her group attendance. 
She attended most groups when she did not have a visitor.  
Initially she was held from psychoeducation groups given her 
overly verbal and tangential speech, however after 2 days she 
started going to these groups and was appropriate. She was an 
active participant in groups and in the milieu particularly with 
other patients her age. ___ was visible on the unit for 
much of  her stay and interacted well with other patients and 
staff. 

#) COLLATERAL CONTACTS:
Contact was made with ___ psychiatrist Dr. ___.  
He has been treating the pt since ___, recently 
seeing her about every month via skype when necessary. Very 
familiar with the pt and her family.  He has been treating her 
for severe insomnia, generalized anxiety disorder, alcohol use 
disorder and rule out ADHD. He has not know her to be psychotic 
or express any delusions. He did note a significant drug history 
in her teens. Last spoke to her on ___ at this time he 
noticed she was not sleeping well and suggested upping Zyprexa 
to 10mg QHS. She has been struggling with sleeping for many 
years typically up for days at a time then crashing for a couple 
days. He noted that the day prior to admission her sister 
commented on how she was saying strange things to her including 
being more clairvoyant.  Dr. ___ any safety concerns, 
has not known her to be suicidal or a harm to herself.  

Prior to discharge a teleconference was held with Dr. ___, 
___ felt she was near her baseline, though slightly
slowed. Dr. ___ past psychiatric history 
of anxiety, mostly social. ___ presentation, hospital 
course, and aftercare were discussed at length with the team, 
patient, and Dr. ___.

#) FAMILY INVOLVEMENT: 
___ mother, ___, was contacted.  She 
expressed that she felt her daughter was doing better. She last 
saw ___ over the ___ break she was concerned about 
her drinking. Mrs. ___ said she and her husband are 
familiar with 12 step programs and wanted to create "a 
judgment-free zone" for ___. She said though she had been 
worried knowing that in ___ was often drinking a 
bottle to a bottle and a half of whiskey per day. Mrs. ___ 
also noted the trauma the family had been thru with their 
youngest daughter and her medical ailments. She said that 
___ was very helpful over the past ___ years as the family 
has tried to help the youngest sister heal. Mrs. ___ said 
she knew that ___ had a hard time returning to ___, 
particularly after all the help she had provided to the family.

In reviewing some of pt's history, Mrs. ___ said that 
___ had "experimented" with drugs, alcohol in high school 
but felt that was in the normal range of teenager behaviors. She 
noted that ___ had been a high-ranking tennis player and 
felt she needed to return to a healthier way of living, free of 
substances, in order
to recover.  Mrs. ___ denied any family hx of mental 
illness and in discussing the team's diagnostic impressions of 
pt, Mrs. ___ said she "did not think categories, like 
bipolar, were helpful." I talked more about the symptoms which 
we had been trying to understand, and Mrs. ___ stated she 
felt pt's alcohol withdrawal was the more apt explanation. Mrs. 
___ asked if we were using any alternative therapies and 
explained that she wondered if we had checked pt's vitamin 
deficiencies, hormonal levels, etc. 

#) INTERVENTIONS:
 - Medications: Increased Zyprexa to 15mg QHS
 - Psychotherapeutic Interventions: Individual, group, and 
milieu therapy
 - Coordination of aftercare 

INFORMED CONSENT:
The team discussed the indications for, intended benefits of,  
and possible side effects and risks of increasing Zyprexa, and 
risks and benefits of possible alternatives, including not  
taking the medication, with this patient. We discussed the 
patient's right to decide whether to  take this medication as 
well as the importance of the patient's actively participating 
in the treatment and discussing any  questions about medications 
with the treatment team, and all questions were answered.  The 
patient appeared able to understand and consented to begin the 
medication.

RISK ASSESSMENT
Low imminent risk of harm to self.

#CHRONIC/STATIC RF
- Chronic mental illness, substance abuse history, history of a 
suicide attempt, sexual orientation 

#MODIFIABLE RF
- Psychosis - we mitigated this by changing the patients  
medications after she noted the current regimen was not working. 
She tolerated therapies well and was much improved at time of 
discharge with decreased feelings of psychosis and improved 
sleep. 
- Supports - Pt had limited outpatient providers that are 
accessible. Most of her supports are far from her current 
location.  She was connected with current providers and 
appointments were made. 
- Substance use history - pt was advised strongly to avoid 
alcohol and drugs.  We provided psychoeducation and referrals 
for her as an outpatient. She understood the risks of use and 
appears to be in the motivated stage of recovery.

#PROTECTIVE FACTORS
- Family support - pt has a very supportive family with whom she 
is close
- Medication compliance - pt has been compliant with medications 
and is motivated to continue taking her medications
- Intelligence - ___ is smart and pursing a difficult 
degree at ___ 
- Forward thinking - she is motivated to finish her degree in 
the ___ 

PROGNOSIS:
Fair - pt appears motivated for change and has many protective 
factors including family support, intelligence and is forward 
thinking. However, she has a substantial alcohol use disorder 
and while she states she is going to abstain from alcohol, she 
has never had any directed substance abuse treatment and 
declined any structured programs upon discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ALPRAZolam 0.25-0.5 mg PO QHS 
2. Lorazepam 0.5-1 mg PO DAILY:PRN anxiety 
3. OLANZapine 5 mg PO QHS 

 
Discharge Medications:
1. OLANZapine 15 mg PO QHS 
RX *olanzapine 15 mg 1 (One) tablet(s) by mouth nightly Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified bipolar disorder and other disorders.
Alcohol use disorder 

 
Discharge Condition:
  *VS:  BP:127/73   HR:82   temp:97.9  resp: 16  O2 sat:100%   
  Neurological:
    *station and gait:  steady gate, no ataxia 
    *tone and strength: normal bulk tone
    cranial nerves: grossly intact 
Cognition: 
 Wakefulness/alertness: alert, awake
 *Attention: maintains appropriate attention throughout exam 
 *Orientation: person, place, date, situation 
 *Memory: recalls aspects of past few days / past treatments 
 *Fund of knowledge: appropriate for age and education level
 *Speech: normal rate, rhythm, prosody
 *Language: fluent ___, no paraphasic errors 
 
Mental Status:
 *Appearance: thin, short hair, short statue, wearing 
sweatshirt, jeans and boots 
 Behavior: calm, cooperative, engaged in interview, intense eye 
contact
 *Mood and Affect: 'good' /euthymic, full range, congruent with 
mood 
 *Thought process / *associations: logical, goal oriented, minor
tangentiality 
 *Thought Content: Denies SI/HI/AVH, however its unclear if she 
is responding to internal stimuli, +delusions of being able to 
connect with people's thoughts +paranoia
 *Insight and Judgment: poor/poor

 
Discharge Instructions:
You were hospitalized at ___ for confusion and psychosis.  We 
adjusted your medications, and you are now ready for discharge.

- Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
- Please continue all medications as directed.
- Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
- Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
- Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___